US07148234B2
STEP 1. 1-{4-[4-(2-Hydroxyethyl)anilino]-3-nitrophenyl}ethanone
A mixture of 2-chloro-5-acetylnitrobenzene (Oelschlaeger, H.; Schreiber, O. Liebigs Ann. Chem., 1961, 641, 81., 2 g, 10 mmol), 4-aminophenylethyl alcohol (1.64 g, 12 mmol) and NaHCO3 (1 g, 12 mmol) in DMF (60 mL) was heated at 150° C. for 3 h. After cooling, the mixture was poured into water (100 mL) and extracted with ethyl acetate (300 mL). The organic layer was washed with 2N aqueous NaOH (100 mL) and brine (100 mL), then dried (Na2SO4), and concentrated. Purification by flash column chromatography on silica gel eluting with hexane/ethyl acetate (1:1) to afford 1.36 g (45%) of the title compound as an orange oil; 1H-NMR (CDCl3) δ 9.83 (1H, br.s), 8.20 (1H, d, J=2.1 Hz), 7.94 (1H, dd, J=2.1 Hz, 9.3 Hz), 7.34 (2H, d, J=8.2 Hz), 7.24 (2H, d, J=8.2 Hz), 7.16 (1H, d, J=9.3 Hz), 3.91 (2H, t, J=6.6 Hz), 2.92 (2H, t, J=6.6 Hz), 2.57 (3H, s).

reactant | 2-chloro-5-acetylnitrobenzene | ClC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H6ClNO3
reactant | 4-aminophenylethyl alcohol | 12 mmol, 1.64 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | NaHCO3 | 12 mmol, 1 g | C(=O)(O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-{4-[4-(2-Hydroxyethyl)anilino]-3-nitrophenyl}ethanone | 1.36 g, 45% | OCCC1=CC=C(NC2=C(C=C(C=C2)C(C)=O)[N+](=O)[O-])C=C1 | C16H16N2O4
